US06770667B1
To a suspension of 3-(2-thienyl)benzoic acid (103 mg) and 3-(4,5-dimethylimidazol-1-yl)aniline (94 mg) in dichloromethane (2 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (135 mg) and 4-dimethylaminopyridine (31 mg), and the mixture was stirred for 24 hours. The mixture was diluted with dichloromethane and washed with water and brine. The mixture was dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated with methanol, and the insoluble material was collected by filtration and dried to give N-[3-(4,5-dimethylimidazol-1-yl)-phenyl]-3-(2-thienyl)benzamide (117 mg, 62.6%).

reactant | 3-(2-thienyl)benzoic acid | 103 mg | S1C(=CC=C1)C=1C=C(C(=O)O)C=CC1 | C11H8O2S
reactant | 3-(4,5-dimethylimidazol-1-yl)aniline | 94 mg | CC=1N=CN(C1C)C=1C=C(N)C=CC1 | C11H13N3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 135 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 31 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[3-(4,5-dimethylimidazol-1-yl)-phenyl]-3-(2-thienyl)benzamide | 117 mg, 62.6% | CC=1N=CN(C1C)C=1C=C(C=CC1)NC(C1=CC(=CC=C1)C=1SC=CC1)=O | C22H19N3OS
